US07153968B2
Step 1: 2-(6-Bromo-pyridin-2-yl)-propan-2-ol
To a suspension of 2,6-dibromopyridine (1.0 eq.) in Et2O (0.2M) at −78° C. was added dropwise n-BuLi (1.05 eq.). The mixture was stirred at −78° C. for 45 min then acetone (1.5 eq.) was added. The final mixture was stirred for an extra 15 min at −78° C. and quenched with saturated aqueous NaHCO3. The mixture was extracted with EtOAc (2×). The combined organic extracts were washed with, brine, dried over MgSO4, filtered and concentrated to afford the title compound as a white solid which was used as such.

reactant | 2,6-dibromopyridine | 1.0 eq. | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | n-BuLi | 1.05 eq. | [Li]CCCC
reactant | acetone | 1.5 eq. | CC(=O)C | C3H6O
solvent | Et2O | 0.2M | CCOCC | C4H10O
product | 2-(6-Bromo-pyridin-2-yl)-propan-2-ol | BrC1=CC=CC(=N1)C(C)(C)O | C8H10BrNO
